US06030991
4-brombenzenesulfonyl chloride (solid) was added, in five portions, to a solution of 3-methyl-5-aminoisoxazole (3.82 g, 40 mmol) in dry pyridine (30 ml). This was stirred at room temperature for 3 h and the pyridine was removed under reduced pressure. The residue was dissolved in THF (300 ml) and a 5% NaOH solution (100 ml) was added. Stirring continued for 1 h at room temperature. The THF was removed under reduced pressure and the resultant residue was neutralized to pH 2 using concentrated hydrochloric acid. This was extracted with ethyl acetate (3×200 ml) and the combined organic layer was dried over MgSO4 and concentrated. The crude product was recrystallized using hexane/ethyl acetate giving N-(3-methyl-5-isoxazolyl)-4-bromobenzenesulfonamide (9.2 g, 72% yield).

reactant | 4-brombenzenesulfonyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 3-methyl-5-aminoisoxazole | 40 mmol, 3.82 g | CC1=NOC(=C1)N | C4H6N2O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-methyl-5-isoxazolyl)-4-bromobenzenesulfonamide | 9.2 g, 72% yield | CC1=NOC(=C1)NS(=O)(=O)C1=CC=C(C=C1)Br | C10H9BrN2O3S
